US07767829B2
11.3 4,5,6,7,8,9-Hexafluoro-1,1,2-trimethyl-1H-benzo[e]indole
To 3-methylbutan-2-one(1,2,3,4,6,7,9-heptafluoro-5H-benzo[7]annulen-8-yl)hydrazone (44 mg) was added tetralin (2 ml) and the mixture heated to 200° C. overnight. On cooling to room temperature the mixture was subjected to preparative HPLC. The relevant fractions were combined, concentrated on a rotary evaporator and freeze dried to give the desired product (2 mg). M+=317

reactant | 3-methylbutan-2-one(1,2,3,4,6,7,9-heptafluoro-5H-benzo[7]annulen-8-yl)hydrazone | 44 mg | FC1=C(C(=C(C2=C1C(=C(C(=C(C2)F)F)NN=C(C)C(C)C)F)F)F)F | C16H13F7N2
reactant | tetralin | 2 ml | C1CCCC2=CC=CC=C12 | C10H12
product | 4,5,6,7,8,9-Hexafluoro-1,1,2-trimethyl-1H-benzo[e]indole | 2 mg | FC1=C(C2=C(C=3C(C(=NC13)C)(C)C)C(=C(C(=C2F)F)F)F)F | C15H9F6N
